US08071768B2
4-(6,7-Dimethoxy-quinazolin-4-yl)-piperidine-1-carboxylic acid (4-trifluoromethyl-phenyl)-amide
A solution of 6,7-dimethoxy-4-piperidin-4-yl-quinazoline (20 mg, 0.0733 mmol), as prepared in Example 1d, in DMF (1 mL) was treated with 1-isocyanato-4-trifluoromethyl-benzene (20 mg, 0.107 mmol) at RT overnight. The reaction was then partitioned between EtOAc (10 mL) and H2O (10 mL). The organic phase was dried over Na2SO4 and concentrated in vacuo. Purification by prep tlc (1:9 MeOH/DCM) afforded the title compound as a yellow solid (9.0 mg, 27%). 1H NMR (300 MHz, CDCl3) δ 9.10 (s, 1H), 7.54 (m, 2H), 7.39 (m, 1H), 7.28 (m, 2H), 6.69 (m, 1H), 6.63 (br s, NH), 4.33-4.29 (m, 2H), 4.09 (s, 6H), 3.65 (m, 1H), 3.22 (m, 2H), 2.17 (m, 2H), 2.06-2.01 (m, 2H); LC/MS (ESI) calcd mass 460.2, found 461.3 [M+1]+.

reactant | 6,7-dimethoxy-4-piperidin-4-yl-quinazoline | 0.0733 mmol, 20 mg | COC=1C=C2C(=NC=NC2=CC1OC)C1CCNCC1 | C15H19N3O2
reactant | 1-isocyanato-4-trifluoromethyl-benzene | 0.107 mmol, 20 mg | N(=C=O)C1=CC=C(C=C1)C(F)(F)F | C8H4F3NO
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 4-(6,7-Dimethoxy-quinazolin-4-yl)-piperidine-1-carboxylic acid (4-trifluoromethyl-phenyl)-amide | 9.0 mg, 27% | FC(C1=CC=C(C=C1)NC(=O)N1CCC(CC1)C1=NC=NC2=CC(=C(C=C12)OC)OC)(F)F | C23H23F3N4O3
